US06555552B2
(1R*,2R*,3S*,5S*,6R*)-2-Amino-3-fluoro-1-phenyl-6-(hydroxymethyl)-8-azabicyclo[3.2.1]octane
(1R*,2R*,3S*,5S*,6R*)-2-Benzylamino-8-benzyl-3-fluoro-1-phenyl-6-(hydroxymethyl)-8-azabicyclo[3.2.1]octane (Description 38; 486 mg, 1.13 mmol) was dissolved in ethanol (20 mL) and 1,4-cyclohexadiene (2 mL). 10% Palladium on activated charcoal (500 mg) was added and the suspension was heated at reflux for 24 hours. After cooling and filtration, the filtrate was concentrated in vacuo to give the title compound as a gum (257 mg, 1.0 mmol).

reactant | (1R*,2R*,3S*,5S*,6R*)-2-Benzylamino-8-benzyl-3-fluoro-1-phenyl-6-(hydroxymethyl)-8-azabicyclo[3.2.1]octane | 1.13 mmol, 486 mg | C(C1=CC=CC=C1)N[C@@H]1[C@@]2(C[C@H]([C@H](C[C@@H]1F)N2CC2=CC=CC=C2)CO)C2=CC=CC=C2 | C28H31FN2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | 1,4-cyclohexadiene | 2 mL | C1=CCC=CC1 | C6H8
catalyst | Palladium on activated charcoal | 500 mg | [Pd] | Pd
product | (1R*,2R*,3S*,5S*,6R*)-2-Amino-3-fluoro-1-phenyl-6-(hydroxymethyl)-8-azabicyclo[3.2.1]octane | 1.0 mmol, 257 mg | N[C@@H]1[C@@]2(C[C@H]([C@H](C[C@@H]1F)N2)CO)C2=CC=CC=C2 | C14H19FN2O
